US04533664
1.0 g (3 mmols) of 4-hydroxy-2-methyl-N-phenyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide were refluxed with 1.3 g (10 mmols) of 2-amino-6-chloro-pyrazine and 0.1 g of p-toluenesulfonic acid in 250 ml of xylene for 72 hours. After cooling, the reaction mixture was washed with 2N hydrochloric acid and then with water, then dried and concentrated by evaporation in vacuo. The residue was purified column chromatography (Merck silicagel 60; particle size: 0.2-0.5 mm; eluant: chloroform/ethanol 90:10) and yielded 0.25 g (23% of theory) of N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide.

reactant | 4-hydroxy-2-methyl-N-phenyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 3 mmols, 1.0 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=CC=CC=C2 | C16H14N2O4S
reactant | 2-amino-6-chloro-pyrazine | 10 mmols, 1.3 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 0.25 g, 23% | ClC1=CN=CC(=N1)NC(=O)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)C | C14H11ClN4O4S
